US08563583B2
B. (S)-1-(4-(3-(ethylthio)-2-hydroxypropoxy)-3-methoxyphenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one
Ethanethiol (47.6 mg, 0.76 mmol) and 25% aq. potassium hydroxide (172 mg, 0.77 mmol) were added to a solution of (R)-1-(3-methoxy-4-(oxiran-2-ylmethoxy)phenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one (32 mg, 0.08 mmol) Part A in THF (1.5 mL). The mixture was stirred overnight at RT. Diluted with EtOAc, washed with sat. NaHCO3, dried (Na2SO4), and concentrated. The residue was purified using ISCO flash chromatography (silica gel/hexanes/ethyl acetate 100:0 to 0:100 gradient) to afford the desired product (S)-1-(4-(3-(ethylthio)-2-hydroxypropoxy)-3-methoxyphenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one 15B (28 mg, 0.06 mmol, 76% yield) as a light yellow solid. LC/MS 480 (M+H)+, tR 0.97 min (method 5).

reactant | Ethanethiol | 0.76 mmol, 47.6 mg | C(C)S | C2H6S
reactant | potassium hydroxide | 0.77 mmol, 172 mg | [OH-].[K+]
reactant | (R)-1-(3-methoxy-4-(oxiran-2-ylmethoxy)phenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one | 0.08 mmol, 32 mg | COC=1C=C(C=CC1OC[C@@H]1OC1)N1C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H18F3NO4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-1-(4-(3-(ethylthio)-2-hydroxypropoxy)-3-methoxyphenyl)-4-(4-(trifluoromethyl)phenyl)pyridin-2(1H)-one | 0.06 mmol, 28 mg, 76% yield | C(C)SC[C@H](COC1=C(C=C(C=C1)N1C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)OC)O | C24H24F3NO4S
